* C:\Users\tom_v\projects\tomverbeure.github.io\assets\hp10811\ltspice\l_double_c.asc
L1 in out 1µ
C1 in 0 15n
C2 out 0 15n
V1 N001 0 SINE(0 1 1.8meg) AC 1 0
R1 N001 in 1000
.ac dec 10000 100k 10meg
* L = 1uH\nC1,2 = 15n -> C = 7.5nF\nfreq = 1/(2pi sqrt(LC) ) = 1.84 MHz
.backanno
.end
